US08426411B2
A round bottom flask was charged with 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl methanesulfonate (0.83 g, 1.7 mmol, Preparation #IIII.1) and DMF (7.0 mL). To the reaction flask was added sodium azide (0.56 g, 8.6 mmol). The mixture was stirred at ambient temperature for about 20 h. Another portion of sodium azide (0.056 g, 0.86 mmol) was added and the reaction was stirred for about 2 h. The reaction was partitioned between EtOAc (20 mL) and water (20 mL). The layers were separated and the organic solution was dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give 1-(-4-azido-2-ethylcyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.65 g, 88%) as a brown oil: LC/MS (Table 1, Method b) Rt=2.85 min; MS m/z: 427 (M+H)+.

reactant | 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl methanesulfonate | 1.7 mmol, 0.83 g | CS(=O)(=O)OC1CC(C(C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)CC | C21H33N5O4SSi
reactant | sodium azide | 8.6 mmol, 0.56 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 0.86 mmol, 0.056 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
product | 1-(-4-azido-2-ethylcyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.65 g, 88% | N(=[N+]=[N-])C1CC(C(C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)CC | C20H30N8OSi
